US03960892
To a stirred suspension of 2.0347 g. (8.613 mM) of 7-methoxy-1-oxo-1H-2-benzothiopyran-3-carboxylic acid in 50 ml. of distilled water is added 0.7236 g. (8.613 mM) of sodium bicarbonate. The resulting mixture is stirred at 25°-35° for 1.25 hours, filtered, and the filtrate freeze-dried to give sodium 7-methoxy-1-oxo-1H-2-benzothiopyran-3-carboxylate as a pale yellow solid, m.p. >350°.

reactant | 7-methoxy-1-oxo-1H-2-benzothiopyran-3-carboxylic acid | 8.613 mM | COC1=CC2=C(C=C(SC2=O)C(=O)O)C=C1 | C11H8O4S
reactant | sodium bicarbonate | 8.613 mM | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | sodium 7-methoxy-1-oxo-1H-2-benzothiopyran-3-carboxylate | COC1=CC2=C(C=C(SC2=O)C(=O)[O-])C=C1.[Na+] | InChI=1S/C11H8O4S.Na/c1-15-7-3-2-6-4-9(10(12)13)16-11(14)8(6)5-7;/h2-5H,1H3,(H,12,13);/q;+1/p-1
